US07902375B2
1-[5-(3-Cyano-4-methanesulfonyl-phenyl)-4-methyl-thiazol-2-yl]-3-[2-(5-ethyl-oxazol-2-yl)-ethyl]-urea
To a stirred solution of imidazole-1-carboxylic acid [5-(3-cyano-4-methanesulfonyl-phenyl)-4-methyl-thiazol-2-yl]-amide (Intermediate BD) (0.05 g, 1.29 mmol) in DMF (1.5 ml) under an inert atmosphere is added 2-(5-ethyl-oxazol-2-yl)-ethylamine (Amine) (0.018 g, 1.29 mmol) followed by triethylamine (0.02 ml, 0.14 mmol). The reaction mixture is heated to 70° C. for 2.5 hours and then allowed to cool to room temperature. The solvent is removed in vacuo and the resulting crude residue is dissolved in THF and passed through a 0.5 g polymer supported isocyanate resin (pre-washed with THE). The solution is concentrated in vacuo and the crude residue is dissolved in DCM and washed with water, brine, dried over MgSO4 and concentrated in vacuo again. Triturating with ether affords the titled compound as a yellow solid.

reactant | imidazole-1-carboxylic acid [5-(3-cyano-4-methanesulfonyl-phenyl)-4-methyl-thiazol-2-yl]-amide | 1.29 mmol, 0.05 g | C(#N)C=1C=C(C=CC1S(=O)(=O)C)C1=C(N=C(S1)NC(=O)N1C=NC=C1)C | C16H13N5O3S2
reactant | 2-(5-ethyl-oxazol-2-yl)-ethylamine | 1.29 mmol, 0.018 g | C(C)C1=CN=C(O1)CCN | C7H12N2O
reactant | triethylamine | 0.14 mmol, 0.02 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 1-[5-(3-Cyano-4-methanesulfonyl-phenyl)-4-methyl-thiazol-2-yl]-3-[2-(5-ethyl-oxazol-2-yl)-ethyl]-urea | C(#N)C=1C=C(C=CC1S(=O)(=O)C)C1=C(N=C(S1)NC(=O)NCCC=1OC(=CN1)CC)C | C20H21N5O4S2
